US08729258B2
(5-Benzyloxycarbonylamino-6-hydroxy-hexyl)-carbamic acid tert-butyl ester (Cbz-Lys(Boc)-alcohol) (E-8)
To a stirred solution of 2-benzyloxycarbonylamino-6-tert-butoxycarbonylamino-hexanoic acid (Cbz-Lys(Boc)-OH) (Chem-Impex International, 3.8 g, 10 mmol) in THF (25 mL) in a 100 mL round flask was added 1,1′-carbonyldiimidazole (CDI) (1.7 g, 10.5 mmol) at room temperature. After 20 minutes, the THF solution was transferred via a Teflon canula (φ=2 mm) to a stirred solution of sodium borohydride (0.75 g, 20 mmol) in water (10 mL) in a 1 L round flask immersed in a water bath at 5-10° C. The addition caused a strong evolution of hydrogen gas and the mixture was stirred for a couple of hours. The volatiles were then removed on a rotovap, and the residue was dissolved in ethyl acetate (150 mL). The ethyl acetate solution was extracted successively with cold 1 N HCl (2×50 mL), saturated sodium bicarbonate solution (2×50 mL), brine (100 mL), and was dried with anhydrous sodium sulfate. The dried ethyl acetate solution was then pass through a one inch flash pad of silica gel, and concentrated to provide a colorless solid (3.3 g, 91%), TLC Rf=0.24 (95:5:2 EtOAc:MeOH:H2O).

reactant | 2-benzyloxycarbonylamino-6-tert-butoxycarbonylamino-hexanoic acid | 10 mmol, 3.8 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CCCCNC(=O)OC(C)(C)C | C19H28N2O6
reactant | 1,1′-carbonyldiimidazole | 10.5 mmol, 1.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium borohydride | 20 mmol, 0.75 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (5-Benzyloxycarbonylamino-6-hydroxy-hexyl)-carbamic acid tert-butyl ester | 3.3 g, 91% | C(C)(C)(C)OC(NCCCCC(CO)NC(=O)OCC1=CC=CC=C1)=O | C19H30N2O5
